US06451810B1
According to the general method of Example 14, 1-(4-aminobutyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine and 2-(2-fluoro-4-biphenylyl)propionyl chloride were combined to provide N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-(2-fluoro-4-biphenylyl)propanamide as a white powder, m.p. 76.1-79.9° C. 1H NMR (300 MHz, DMSO-d6) δ8.17 (s, 1H), 8.03 (m, 2H), 7.62 (d, J=8.3 Hz, 1H), 7.49-7.14 (m, 10H), 6.59 (broad s, 2H), 4.58 (t, J=6.9 Hz, 2H), 3.59 (q, J=7.0 Hz, 1H), 3.09 (pentet, J=6.7 Hz, 2H), 1.82 (m, 2H), 1.45 (m, 2H), 1.30 (d, J=7.0 Hz, 3H); MS (EI) m/e 481.2268 (481.2278 calcd for C29H28FN5O).

reactant | 1-(4-aminobutyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C17H23N5O
reactant | 2-(2-fluoro-4-biphenylyl)propionyl chloride | FC1=C(C=CC(=C1)C(C(=O)Cl)C)C1=CC=CC=C1 | C15H12ClFO
product | N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-(2-fluoro-4-biphenylyl)propanamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(C(C)C2=CC(=C(C=C2)C2=CC=CC=C2)F)=O | C29H28FN5O
